US06136823
Synthesis of 5-Amino-1-(6-amino-3,5-difluoropyridin-2-yl)-8-chloro-7-dimethylamino-6-fluoro-4-oxo-1,4-dihydroquinoline-3-carboxylic Acid
5-Amino-1-(6-amino-3, 5-difluoropyridin-2-yl)-8-chloro-6,7-difluoro-4-oxo-1,4-dihydroquinoline-3-carboxylic acid (100 mg) and an aqueous solution (about 50%; 170 mg) of dimethylamine were added to pyridine (500 mg), and the mixture was stirred at room temperature for 4 days. The reaction mixture was concentrated under reduced pressure, and ethanol (1 ml) was added to the residue. Deposits were collected by filtration and washed with ethanol and diisopropyl ether in that order to obtain the title compound (86 mg) as a yellow powder.

reactant | 5-Amino-1-(6-amino-3, 5-difluoropyridin-2-yl)-8-chloro-6,7-difluoro-4-oxo-1,4-dihydroquinoline-3-carboxylic acid | 100 mg | NC1=C2C(C(=CN(C2=C(C(=C1F)F)Cl)C1=NC(=C(C=C1F)F)N)C(=O)O)=O | C15H7ClF4N4O3
reactant | dimethylamine | 170 mg | CNC | C2H7N
solvent | pyridine | 500 mg | N1=CC=CC=C1 | C5H5N
product | 5-Amino-1-(6-amino-3,5-difluoropyridin-2-yl)-8-chloro-7-dimethylamino-6-fluoro-4-oxo-1,4-dihydroquinoline-3-carboxylic Acid | 86 mg | NC1=C2C(C(=CN(C2=C(C(=C1F)N(C)C)Cl)C1=NC(=C(C=C1F)F)N)C(=O)O)=O | C17H13ClF3N5O3
